US04841042
4-Nitrobenzyl 3-oxopentanoate
A suspension of 55.3 g (0.36 mole) of 4-nitrobenzyl alcohol and 56.2 g (0.39 mole) of ethyl 3-oxopentanoate in 360 ml of toluene was heated to boiling. About 300 ml of toluene were distilled out over the course of 10 h, then the mixture was cooled and another 200 ml were added and this procedure was repeated. After cooling, the mixture was filtered through kieselguhr, which was washed with toluene, and the filtrate solution was evaporated in vacuo. 89 g (98%) of the title compound were obtained as an oil, Rf: 0.42 (toluene:ethyl acetate 4:1).

reactant | 4-nitrobenzyl alcohol | 0.36 mole, 55.3 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | ethyl 3-oxopentanoate | 0.39 mole, 56.2 g | O=C(CC(=O)OCC)CC | C7H12O3
solvent | toluene | 360 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Nitrobenzyl 3-oxopentanoate | 89 g, 98% | O=C(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CC | C12H13NO5
